US08685974B2
A mixture of 3-(dimethylamino)-1-(4-methyl-2-thienyl)prop-2-en-1-one (72 mmol) and hydrazine hydrate (144 mmol) in 80 mL ethanol was refluxed for 18 h and then allowed to cool to room temperature. The solvent was evaporated under reduced pressure and the residue was partitioned between ethyl acetate and water. The organic phase was successively washed with saturated aqueous ammonium chloride solution, saturated aqueous sodium bicarbonate solution and brine, dried over MgSO4, filtered and concentrated to afford 11.58 g (98% yield) 3-(4-methyl-2-thienyl)-1H-pyrazole which was used in the next step without further purification.

reactant | 3-(dimethylamino)-1-(4-methyl-2-thienyl)prop-2-en-1-one | 72 mmol | CN(C=CC(=O)C=1SC=C(C1)C)C | C10H13NOS
reactant | hydrazine hydrate | 144 mmol | O.NN
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 3-(4-methyl-2-thienyl)-1H-pyrazole | 11.58 g, 98% yield | CC=1C=C(SC1)C1=NNC=C1 | C8H8N2S
